US08039487B2
A solution of 3-((R)-4-piperidin-2-yl-thiazol-2-yl)-benzoic acid methyl ester (0.048 g, 0.16 mmol) in dry dichloromethane (2 mL) under argon was treated with triethylamine (0.064 g, 0.09 ml.), dimethylaminopyridine (0.002 g, 0.020 mmol) and phenoxyacetyl chloride (0.027 g, 0.16 mmol). The mixture was stirred at room temperature for 4 h. The mixture was washed with water and saturated sodium chloride. The organic phase was dried over sodium sulphate and evaporated. The residual oil was purified by preparative HPLC: Column: YMC-Pack Pro C18 RS, 20×50 mm, S-5 um, 8 nm, No200504707(W); Gradient: 0-0.4 min: 30% acetonitrile in (water+0.1% HCO2H), 0.4-2.4 min: increse of acetonitrile fraction from 30% to 95%, 2.4-4.7 min: 95% acetonitrile, 4.7-4.8 min: decrease of acetonitrile fraction from 95% to 30%; Program end at 4.87 min; Flow: 30 ml/min. 3-{4-[(R)-1-(2-Phenoxy-acetyl)-piperidin-2-yl]-thiazol-2-yl}-benzoic acid methyl ester was obtained after lyophilization as a light yellow oil (0.033 g, 48%), MS (ISP): 437.3 (M+H)+..

reactant | 3-((R)-4-piperidin-2-yl-thiazol-2-yl)-benzoic acid methyl ester | 0.16 mmol, 0.048 g | COC(C1=CC(=CC=C1)C=1SC=C(N1)[C@@H]1NCCCC1)=O | C16H18N2O2S
reactant | triethylamine | 0.09 ml, 0.064 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.020 mmol, 0.002 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | phenoxyacetyl chloride | 0.16 mmol, 0.027 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 3-{4-[(R)-1-(2-Phenoxy-acetyl)-piperidin-2-yl]-thiazol-2-yl}-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1SC=C(N1)[C@@H]1N(CCCC1)C(COC1=CC=CC=C1)=O)=O | C24H24N2O4S
